US05500442
3-Hydroxy-4-[trans-3-hydroxy-2,2-dimethyl-4-(1-oxo-1,3-dihydroisoindol-2-yl)-chroman-6-yl]-cyclobut-3-ene-1,2-dione.
A solution of 303 mg (0.676 retool) of 3-[trans-3-hydroxy-2,2-dimethyl-4-(1- oxo-1,3-dihydroisoindol-2-yl)-chroman-6-yl]-4-isopropoxy-cyclobut-3-ene-1,2-dione in THF (5 mL) containing 1.13 mL (6 N HCl) was heated at 50° C. for 48 h. The reaction mixture was diluted with 2 N HCl and extracted into 20% THF-CH2Cl2. The combined organic extracts were dried (MgSO4), concentrated, and recrystallized from THF to give 112 mg of the title compound as a tan solid, mp>250° C.: 1H-NMR (DMSO-d6 ; 400 MHz) δ7.84 (dd, 1 H), 7.81 (d, 1 H), 7.52-7.64 (m, 3 H), 7.51 (s, 1 H), 6.93 (d, 1 H), 5.3 (br s, 1 H), 4.4-4.5 (br d, 1 H), 3.8-4.1 (br, 2 H), 1.47 (s, 3 H), and 1.26 ppm (s, 3 H); IR (KBr) 3400, 1785, 1720, 1670, and 1600 cm-1 ; mass spectrum (DCI+), m/e 406 (M+H). Anal. Calcd. for C23H19NO6. 0.5 H2O: C, 66.66; H, 4.86; N, 3.38 Found: C, 66.67; H, 4.60; N, 3.34.

reactant | 3-[trans-3-hydroxy-2,2-dimethyl-4-(1- oxo-1,3-dihydroisoindol-2-yl)-chroman-6-yl]-4-isopropoxy-cyclobut-3-ene-1,2-dione | 303 mg | O[C@@H]1C(OC2=CC=C(C=C2[C@H]1N1C(C2=CC=CC=C2C1)=O)C=1C(C(C1OC(C)C)=O)=O)(C)C | C26H25NO6
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | HCl | 2 N | Cl | ClH
solvent | HCl | 6 N | Cl | ClH
product | 3-Hydroxy-4-[trans-3-hydroxy-2,2-dimethyl-4-(1-oxo-1,3-dihydroisoindol-2-yl)-chroman-6-yl]-cyclobut-3-ene-1,2-dione | 112 mg | OC=1C(C(C1C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1C(C2=CC=CC=C2C1)=O)=O)=O | C23H19NO6
